US05246931
Step A: 3.3-Bis(hydroxymethyl)-1,1-dimethoxycyclobutane
Diisopropyl 3,3-dimethoxy-cyclobutane-1,1-dicarboxylate (6.0 g, 20.8 mmol), prepared as described by P. E. Pigou and C. H. Schiesser, J Org Chem, 53, 3841-3 (1988), was dissolved in 200 mL of anhydrous diethyl ether and the ether solution was cooled to 0° C. with stirring under a nitrogen atmosphere. Lithium aluminum hydride (1.6 g, 42 mmol) was added to the ether solution in portions and the reaction mixture was stirred at 0° C. for 0.5 h. The reaction was then quenched by the addition of 1.6 mL of water, followed by 1.6 mL of 15% aqueous sodium hydroxide solution and 4.8 mL of water. The reaction mixture was filtered, the filter cake washed with diethyl ether and the combine ether filtrates were concentrated under reduced pressure. The residue (3.0 g) was dissolved in 2 mL of methylene chloride and purified on a 1.5×45 cm silica gel column eluted @ 2-3 psi with 200 mL of acetone:hexane (1:2 v/v), followed by 200 mL of acetone:hexane (1:1 v/v) to give 1.51 g (41% yield) of the title compound; MS DCI/NH3M-Z: 194 (M+NH4)+ ; 1H NMR (CDCl3) δ 1.99 (s, 4H), 2.35 (t, 2H-OH), 3.16 (s, 6H), 3.77 (d, 4H).

reactant | Diisopropyl 3,3-dimethoxy-cyclobutane-1,1-dicarboxylate | 20.8 mmol, 6.0 g | COC1(CC(C1)(C(=O)OC(C)C)C(=O)OC(C)C)OC | C14H24O6
reactant | Lithium aluminum hydride | 42 mmol, 1.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
product | 3.3-Bis(hydroxymethyl)-1,1-dimethoxycyclobutane | 1.51 g, 41% yield | OCC1(CC(C1)(OC)OC)CO | C8H16O4
